data/mechanisms/records/IMS8-EQT8.2b.json
{"mechanism_id": "IMS8-EQT8.2b", "species": [{"species_id": "fluoroethane_radical_cation", "mapped_smiles": "[CH3:1][CH:2]([1H:4])[F:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "fluoronium_ion", "mapped_smiles": "[CH3:1][CH:2]=[F+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "hydrogen_atom", "mapped_smiles": "[1H:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["fluoroethane_radical_cation"]}, {"state_id": "state_products", "species_ids": ["fluoronium_ion", "hydrogen_atom"]}], "steps": [{"step_id": "step_sigma_pi", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_pi", "support_type": "textbook_proposed", "locator": {"page": 166, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3"}, "confidence": 0.75, "curator_note": "Table 8.2, row 2 (OE+. one-bond sigma cleavage, A:BCD -> A. + B=C(+)D). Book draws 0 arcs -- only the double-dagger ':' on the C-H bond of the printed example H:CH(CH3)F (fluoroethane). Loss of H. from the F-bearing carbon gives the even-electron fluoronium CH3CH=F+ (m/z 47). Encoded electron balance (3 implicit moves, none drawn): one C-H bond electron -> EI hole (external), the other -> departing H., and an F lone pair (2e) forms the new C=F+ pi bond. No m/z / intensity printed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 48.037, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_CH3CHF", "species_id": "fluoronium_ion", "step_id": "step_sigma_pi", "observed_mz": 47.0292, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
